US08283479B2
8.0 g of Wang resin (loading: 1.4 mmol/g) was placed in a solid phase fritted reaction vessel with 75 ml of dimethylformamide. After 5 minutes of swelling, 7.01 ml, of N,N′-diisopropyl carbodiimide, 0.136 g of 4-dimethylaminopyridine and 14.58 g of 2-(9H-Fluoren-9-ylmethoxy-carbonylamino)-2-methyl-propionic acid were added. The reaction was placed in an orbital shaker for 2 days, after which it was filtered, washed 4 times each with dimethylformamide, methanol and dichloromethane. Next, the resin was swollen in 50 ml of dichloromethane, 5.26 ml of acetic anhydride and 19.5 ml of N,N-diisopropylethylamine were added (to cap any unreacted hydroxyl group). It was filtered, washed 4 times each with dimethylformamide, methanol and dichloromethane and dried in vacuo. The loading was checked using a Perkin Elmer UV instrument (Fmoc-Echo test) to give 0.71 mmol/g(theoretical: 0.98 mmol/g). To 11 g (0.71 mmol/g) of the Wang-resin carrying Fmoc-2-Amino-2-methyl-propionic acid was added 140 ml of 20% piperidine in dimethylformamide. It was left in the orbital shaker for 1 hour, after which it was washed four times each with dimethylformamide, methanol and dichloromethane and dried in vacuo. To this Fmoc-deproteced resin was added 150 ml of dimethylformamide, 6.34 ml (40.5 mmol) of N,N′-diisopropyl carbodiimide, 7.62 g of 1-hydroxy-2-naphthoic acid and 5.47 g of 1-hydroxy-benzotriazole. The solid phase reaction was left 2 days in an orbital shaker. Since the reaction was not complete by resin colorimetric tests (Bromophenol blue test for presence of primary amines), once filtered, the same amounts of reagents were re-added to the resin and placed in a flex rotating oven for 4 hours at 55° C. and then left overnight at room temperature. Then it was filtered, washed four times each with dimethylformamide, methanol and dichloromethane and dried in vacuo. (Bromophenol blue test was negative). 10 g of the Wang-resin-bound 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid were obtained.

reactant | N,N′-diisopropyl carbodiimide | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 2-(9H-Fluoren-9-ylmethoxy-carbonylamino)-2-methyl-propionic acid | 14.58 g | C1=CC=CC=2C3=CC=CC=C3C(C12)COC(=O)NC(C(=O)O)(C)C | C19H19NO4
reactant | Fmoc-2-Amino-2-methyl-propionic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)CC(C(=O)O)(C)N | C19H19NO4
reactant | piperidine | 140 ml | N1CCCCC1 | C5H11N
reactant | N,N′-diisopropyl carbodiimide | 40.5 mmol, 6.34 ml | C(C)(C)N=C=NC(C)C | C7H14N2
reactant | 1-hydroxy-2-naphthoic acid | 7.62 g | OC1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O3
reactant | 1-hydroxy-benzotriazole | 5.47 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | Bromophenol blue | C=1C=CC2=C(C1)C(OS2(=O)=O)(C=3C=C(C(=C(C3)Br)O)Br)C=4C=C(C(=C(C4)Br)O)Br | C19H10Br4O5S
catalyst | 4-dimethylaminopyridine | 0.136 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | dimethylformamide | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
product | 2-[(1-hydroxy-naphthalene-2-carbonyl)-amino]-2-methyl-propionic acid | 10 g | OC1=C(C=CC2=CC=CC=C12)C(=O)NC(C(=O)O)(C)C | C15H15NO4
